US08202868B2
c.4.2: 3-[4-(2-tert-Butyl-6-cyclopropyl-pyrimidin-4-yl)-piperazin-1-yl]-propan-1-ol
3.7 g of acetic acid 3-[4-(2-tert-butyl-6-cyclopropyl-pyrimidin-4-yl)-piperazin-1-yl]-propyl ester (10.2 mmol) and 0.4 g of lithium hydroxide (16.7 mmol) were stirred overnight in 20 ml of tetrahydrofuran and 20 ml of water. The reaction mixture was partitioned between water and ethyl acetate. The organic layer was dried over magnesium sulfate, filtered, and the solvent was evaporated. The crude product was purified by chromatography on silica gel using dichloromethane-methanol (0-8%) as eluent to yield 1.0 g of the title compound.

reactant | acetic acid 3-[4-(2-tert-butyl-6-cyclopropyl-pyrimidin-4-yl)-piperazin-1-yl]-propyl ester | 10.2 mmol, 3.7 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCOC(C)=O)C1CC1 | C20H32N4O2
reactant | lithium hydroxide | 16.7 mmol, 0.4 g | [OH-].[Li+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
product | 3-[4-(2-tert-Butyl-6-cyclopropyl-pyrimidin-4-yl)-piperazin-1-yl]-propan-1-ol | 1.0 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCO)C1CC1 | C18H30N4O
